US06359138B1
(RS)-4-Benzyl-1-(5-benzyloxy-2,3-dihydro-benzofuran-2-ylmethyl)-piperidin-4-ol
The title compound MS: m/e=430.6 (M+H+) was prepared from 4-(benzyl)-piperidin-4-ol and 5-benzyloxy-2-(RS)-bromomethyl-2,3-dihydro-benzofuran.

reactant | 4-(benzyl)-piperidin-4-ol | C(C1=CC=CC=C1)C1(CCNCC1)O | C12H17NO
reactant | 5-benzyloxy-2-(RS)-bromomethyl-2,3-dihydro-benzofuran | C(C1=CC=CC=C1)OC=1C=CC2=C(CC(O2)CBr)C1 | C16H15BrO2
product | (RS)-4-Benzyl-1-(5-benzyloxy-2,3-dihydro-benzofuran-2-ylmethyl)-piperidin-4-ol | C(C1=CC=CC=C1)C1(CCN(CC1)CC1OC2=C(C1)C=C(C=C2)OCC2=CC=CC=C2)O | C28H31NO3
